US06919337B2
(6-Ethynyl-isoquinolin-4-yl)-acetic acid (58 mg, 0.28 mmol) is dissolved in DMF (1 ml) and O-(7-azabenzotriazo-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.125 g, 0.33 mmol) and Hunig's base (0.180 ml, 1.03 mmol) are added, followed by a solution of 5,6-diamino-1-isobutyl-3-methyl-1H-pyrimidine-2,4-dione (58 mg, 0.28 mmol) in DMF (0.7 ml). The reaction is stirred at room temperature for 2 hours. The solvent is evaporated and the residue purified by flash column chromatography (30:1 dichloromethane-methanol elution). The intermediate is dissolved in methanol (2 ml) and water (2.75 ml) added, followed by 4M aqueous sodium hydroxide (0.25 ml). The reaction is heated at 40° C. for 2 hours, then stirred for 16 hours at ambient temperature. The solvent is evaporated and the crude product purified by flash column chromatography (30:1 dichloromethane-methanol elution) to afford 8-(6-ethynyl-isoquinolin4-ylmethyl)-3-isobutyl-1-methyl-3,7-dihydro-purine-2,6-dione, [MH]+ 388.

reactant | (6-Ethynyl-isoquinolin-4-yl)-acetic acid | 0.28 mmol, 58 mg | C(#C)C=1C=C2C(=CN=CC2=CC1)CC(=O)O | C13H9NO2
reactant | Hunig's base | 1.03 mmol, 0.180 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 5,6-diamino-1-isobutyl-3-methyl-1H-pyrimidine-2,4-dione | 0.28 mmol, 58 mg | NC=1C(N(C(N(C1N)CC(C)C)=O)C)=O | C9H16N4O2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.7 ml | CN(C)C=O | C3H7NO
product | 8-(6-ethynyl-isoquinolin4-ylmethyl)-3-isobutyl-1-methyl-3,7-dihydro-purine-2,6-dione | C(#C)C=1C=C2C(=CN=CC2=CC1)CC1=NC=2N(C(N(C(C2N1)=O)C)=O)CC(C)C | C22H21N5O2
